US07585874B2
6-Ethynyl-2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine
As described for Example 45, 6-bromo-2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine (100 mg, 0.28 mmol) instead of 7-bromo-2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine, was converted to 2-(5-methyl-3-phenyl-isoxazol-4-yl)-6-trimethylsilanylethynyl-imidazo[1,2-a]pyridine (39 mg, 37% MS: m/e=372.1 [M+H]+) and then to the title compound (19 mg, 69%) which was obtained as a light yellow foam. MS: m/e=300.3 [M+H]+.

reactant | 6-bromo-2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine | 0.28 mmol, 100 mg | BrC=1C=CC=2N(C1)C=C(N2)C=2C(=NOC2C)C2=CC=CC=C2 | C17H12BrN3O
reactant | 2-(5-methyl-3-phenyl-isoxazol-4-yl)-6-trimethylsilanylethynyl-imidazo[1,2-a]pyridine | 39 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=C2N(C=C(C=C2)C#C[Si](C)(C)C)C1 | C22H21N3OSi
product | 6-Ethynyl-2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine | 19 mg, 69% | C(#C)C=1C=CC=2N(C1)C=C(N2)C=2C(=NOC2C)C2=CC=CC=C2 | C19H13N3O
